US06727264B1
1-(4-CHLOROBUTOXY)-3-METHOXYBENZENE:
Prepared by Procedure U and Scheme AK using 3-methoxyphenol and 1-bromo-4-chlorobutane.

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 1-(4-CHLOROBUTOXY)-3-METHOXYBENZENE | ClCCCCOC1=CC(=CC=C1)OC | C11H15ClO2
